US05137653
Then, 4.0 g of (+)-2-methylbutanoic acid chloride and 7 ml of nitrobenzene were charged into a flask and cooled to 0° C., to which was added 10.74 g (80 mmol) of aluminum chloride with stirring and further added a solution of 4.97 g (19.6 mmol) of (+) 2-methylbutanoic acid-4-biphenyl in 9 ml of nitrobenzene and then stirred at room temperature for 70 hours. Thereafter, the resulting mixture was added with 2 normal hydrochloric acid and ice and extracted with chloroform. The chloroform layer was washed with water, dried on anhydrous magnesium sulfate, and purified by a column chromatography of silica gel after the distillation off of the solvent to obtain 3.60 g (yield 54%) of oily 2-methylbutanoic acid-4-(2-methylbutanoyl) biphenyl. The NMR analytical values of this purified product were as follows.

reactant | (+)-2-methylbutanoic acid chloride | 4.0 g | CC(C(=O)Cl)CC | C5H9ClO
reactant | aluminum chloride | 80 mmol, 10.74 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
reactant | nitrobenzene | 9 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | nitrobenzene | 7 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 2-methylbutanoic acid 4-(2-methylbutanoyl) biphenyl | 3.60 g, yield 54% | CC(C(=O)O)CC.CC(C(=O)C1=CC=C(C=C1)C1=CC=CC=C1)CC | InChI=1S/C17H18O.C5H10O2/c1-3-13(2)17(18)16-11-9-15(10-12-16)14-7-5-4-6-8-14;1-3-4(2)5(6)7/h4-13H,3H2,1-2H3;4H,3H2,1-2H3,(H,6,7)
